US07067517B2
4-Hydroxy-piperidine-1-carboxylic acid 5-(4-chloro-benzoylamino)-pyridin-2-yl ester
A solution of 4-chloro-N-(6-hydroxy-pyridin-3-yl)-benzamide (0.50 g, 2.00 mmol), 4-(tert-butyl-dimethyl-silanyloxy)-piperidine-1-carboxylic acid 5-benzoylamino-pyridin-2-yl ester (0.90 g, 2.00 mmol) and triethylamine (0.20 g, 2.00 mmol) in dimethylformamide (10 mL) was stirred overnight at room temperature. The solvent was evaporated in vacuo. The residue was dissolved in dichloromethane, filtered over a short pad of silicagel and washed with ethyl acetate:heptane 50:50. The solvent was evaporated in vacuo and the residue was redissolved in acetonitrile and hydrofluoric acid (min. 40% in water, 0.50 mL) was added. After stirring overnight at room temperature the solvent was evaporated in vacuo. Dichloromethane and triethylamine (1 mL) were added and the solution was extracted twice with water, dried over sodium sulphate, filtered and evaporated in vacuo. Crystallisation from ethyl acetate:heptane yielded the title compound (321 mg, 43% yield).

reactant | 4-chloro-N-(6-hydroxy-pyridin-3-yl)-benzamide | 2.00 mmol, 0.50 g | ClC1=CC=C(C(=O)NC=2C=NC(=CC2)O)C=C1 | C12H9ClN2O2
reactant | 4-(tert-butyl-dimethyl-silanyloxy)-piperidine-1-carboxylic acid 5-benzoylamino-pyridin-2-yl ester | 2.00 mmol, 0.90 g | C(C1=CC=CC=C1)(=O)NC=1C=CC(=NC1)OC(=O)N1CCC(CC1)O[Si](C)(C)C(C)(C)C | C24H33N3O4Si
reactant | triethylamine | 2.00 mmol, 0.20 g | C(C)N(CC)CC | C6H15N
reactant | heptane | CCCCCCC | C7H16
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-Hydroxy-piperidine-1-carboxylic acid 5-(4-chloro-benzoylamino)-pyridin-2-yl ester | 321 mg, 43% yield | ClC1=CC=C(C(=O)NC=2C=CC(=NC2)OC(=O)N2CCC(CC2)O)C=C1 | C18H18ClN3O4
